US07846915B2
To a solution of the product of 3-nitro-4-[(E)-2-(4-hydroxyphenyl)-vinyl]phenol (216 mg, 0.84 mmol) in acetone (6 mL) was added a solution of ammonium chloride (89.9 mg, 1.68 mmol) in 2 mL of water. The mixture was heated to reflux, and the oil bath was removed. Zinc dust (164.8 mg, 2.5 mmol) was added in small portions to the reaction mixture to maintain a moderate reaction. After the reaction subsided an additional portion of zinc (82.4 mg, 1.25 mmol) was added. The reaction mixture was then heated to reflux for an additional 2 h. The precipitate was removed by filtration, washed with acetone (2×20 mL) and with ethyl acetate (2×30 mL). The combined washings were concentrated in vacuo and the crude product was purified by column chromatography using 5% methanol in dichloromethane to afford 3-Amino-4-[(E)-2-(4-hydroxy-phenyl)vinyl]phenol (155 mg, 72%). MS (ES) m/z: 228.11 (M+1), 134.06; 13C-NMR (DMSO-d6): δ 158.3, 156.9, 147.9, 130.4, 130.2, 127.9, 126.9, 124.5, 122.0, 115.9, 115.5, 114.2, 105.4, 102.2. Mp. 229-232° C.

reactant | 3-nitro-4-[(E)-2-(4-hydroxyphenyl)-vinyl]phenol | 0.84 mmol, 216 mg | [N+](=O)([O-])C=1C=C(C=CC1\C=C\C1=CC=C(C=C1)O)O | C14H11NO4
reactant | ammonium chloride | 1.68 mmol, 89.9 mg | [Cl-].[NH4+]
solvent | acetone | 6 mL | CC(=O)C | C3H6O
solvent | water | 2 mL | O | H2O
catalyst | Zinc | 2.5 mmol, 164.8 mg | [Zn] | Zn
catalyst | zinc | 1.25 mmol, 82.4 mg | [Zn] | Zn
product | 3-Amino-4-[(E)-2-(4-hydroxy-phenyl)vinyl]phenol | 155 mg, 72% | NC=1C=C(C=CC1\C=C\C1=CC=C(C=C1)O)O | C14H13NO2
